US04920120
Ethyl 3-(2,3,4,5-tetrafluoro-6-methylphenyl)-β-oxopropanoate
A solution of 10.1 g (76.5 mmol) of malonic acid monoethylester, bipyridyl (catalytic), and 200 ml of dry THF was cooled to -35° C. under argon, treated with 52 ml of 1.5M n-butyllithium (78 mmol), and warmed to -5° C. To this mixture was added 52 ml of 1.5M n-butyllithium (78 mmol) until a pale pink color persisted for 10 minutes. The suspension was cooled to -78° C. and was treated with a solution of 8.8 g (38.8 mmol) of 2,3,4,5-tetrafluoro-6-methylbenzoyl chloride in 100 ml of dry THF. The reaction mixture was stirred at -78° C. for 45 minutes, then warmed to -35° C. and poured into a mixture of ice and 1N hydrochloric acid (77 ml). The organic layer was washed with 5% sodium bicarbonate solution, 3M hydrochloric acid, and water and dried over magnesium sulfate. Concentration gave an orange oil which was chromatographed on silica gel (E. Merck 230-400 Mesh), eluting with 80:20 chloroform:ethyl acetate, to give 8.2 g of the title compound.

reactant | malonic acid monoethylester | 76.5 mmol, 10.1 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | bipyridyl | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | n-butyllithium | 78 mmol, 1.5M, 52 ml | C(CCC)[Li]
reactant | n-butyllithium | 78 mmol, 1.5M, 52 ml | C(CCC)[Li]
reactant | 2,3,4,5-tetrafluoro-6-methylbenzoyl chloride | 38.8 mmol, 8.8 g | FC1=C(C(=O)Cl)C(=C(C(=C1F)F)F)C | C8H3ClF4O
reactant | hydrochloric acid | 1N, 77 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Ethyl 3-(2,3,4,5-tetrafluoro-6-methylphenyl)-β-oxopropanoate | 8.2 g | FC1=C(C(=C(C(=C1F)F)F)C)C(CC(=O)OCC)=O | C12H10F4O3
